US04127646
The 3,5-dinitrobenzoyl azide thus obtained (5 g., 0.021 mol) was heated gently in 20 ml. of concentrated sulfuric acid until nitrogen evolution was complete. The resulting solution was poured over 200 ml. of ice/water and then made basic to pH 10 with concentrated aqueous ammonia solution. The solid was filtered to give 3,5-dinitroaniline.

reactant | 3,5-dinitrobenzoyl azide | [N+](=O)([O-])C=1C=C(C(=O)N=[N+]=[N-])C=C(C1)[N+](=O)[O-] | C7H3N5O5
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | N | H3N
product | 3,5-dinitroaniline | [N+](=O)([O-])C=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5N3O4
